US07297709B2
2-(benzylthio)-6-iodobenzonitrile
A suspension of potassium tert-butoxide (1.12 g, 10.0 mmol) and phenyl-methanethiol (1.24 g, 10 mmol) in THF (30 mL) at room temperature was stirred for 10 minutes before treating with 2-fluoro-6-iodo-benzonitrile (2.47 g, 10 mmol). The solution was stirred for 1 hour at room temperature, poured into a saturated ammonium chloride solution and filtered. The filter cake was recrystallized from hexanes to provide 2.41 g (53% yield) of the desired product. MS(ESI(−)) m/e 350.0 (M−H)−.

reactant | potassium tert-butoxide | 10.0 mmol, 1.12 g | CC(C)([O-])C.[K+]
reactant | phenyl-methanethiol | 10 mmol, 1.24 g | C1(=CC=CC=C1)CS | C7H8S
reactant | 2-fluoro-6-iodo-benzonitrile | 10 mmol, 2.47 g | FC1=C(C#N)C(=CC=C1)I | C7H3FIN
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-(benzylthio)-6-iodobenzonitrile | 2.41 g, 53% yield | C(C1=CC=CC=C1)SC1=C(C#N)C(=CC=C1)I | C14H10INS
